US04965359
(b) Production of di-tert-butyl-N-[(2-chlorophenyl)methyl]-3,3'-iminodipropionate
45.06 g (0.27 mol) of 2-chlorobenzylchloride and 51 g (0.19 mol) of di-tert-butyl-3,3'-iminodipropionate were dissolved in 350 ml of acetonitrile, mixed with 28.3 g (0.28 mol) of triethylamine and refluxed. After 5 hours, 8.85 g (0.06 mol) of 2-chlorobenzylchloride and 9.34 g (0.09 mol) of triethylamine were again added. After being refluxed for 15 hours, the reaction mixture was concentrated by evaporation. The residue was taken up in 300 ml of water, 100 ml of HCl 5n and 300 ml of ether. The acidic water phase was made basic with NaOH (20 percent) and extracted three times with 100 ml of ether. 67.7 g (91 percent) of the subtitle compound (noted above) was obtained from the ether phase. Data concerning the compound was:

reactant | 2-chlorobenzylchloride | 0.27 mol, 45.06 g | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | di-tert-butyl-3,3'-iminodipropionate | 0.19 mol, 51 g | C(C)(C)(C)OC(CCNCCC(=O)OC(C)(C)C)=O | C14H27NO4
reactant | triethylamine | 0.28 mol, 28.3 g | C(C)N(CC)CC | C6H15N
reactant | 2-chlorobenzylchloride | 0.06 mol, 8.85 g | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | triethylamine | 0.09 mol, 9.34 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 350 ml | C(C)#N | C2H3N
product | di-tert-butyl-N-[(2-chlorophenyl)methyl]-3,3'-iminodipropionate | 67.7 g, 91 percent | C(C)(C)(C)OC(CCN(CCC(=O)OC(C)(C)C)CC1=C(C=CC=C1)Cl)=O | C21H32ClNO4
